US07868037B2
Preparation of 2-(4-aminophenyl)-6-methoxy-1-propyl-1H-indole-3-carbonitrile via Negishi Route
A nitrogen-purged flask fitted with a septum and a nitrogen needle is charged with dry THF (all additions performed by syringe) (20 mL). Diisopropylamine (Aldrich Sure-Seal, 2.00 mL, 14.3 mmol) is added, and the solution is cooled to 0° C. n-Butyllithium (8.50 mL of 1.6 M solution in hexane, 13.6 mmol) is added slowly. The flask is allowed to warm to room temperature briefly, and then is cooled to −78° C. A concentrated THF solution of 6-methoxy-1-propyl-1H-indole-3-carbonitrile (2.77 g, 12.9 mmol; prepared analogously to compound 5 of Example 1A) is added slowly, and the resulting solution is maintained at −78° C. for 30 min. The flask is then transferred to a water-ice bath and allowed to come to 0° C. for about 15 minutes. The solution is once again cooled to −78° C., and ZnCl2 (0.5 M solution in THF, 27.0 mL, 13.5 mmol) is slowly added. A precipitate is observed at this point, which may be the bis(indole)zinc compound, but the solution becomes homogeneous when the entire volume of zinc chloride solution is added. After about 10 minutes, the solution is allowed to come to room temperature, and a THF solution (5 mL) of 4-iodoaniline (3.47 g, 15.8 mmol) and triphenylphosphine (338 mg, 1.29 mmol) is added. The septum is removed, and solid Pd2(dba)3 (295 mg, 0.322 mmol) is added. A reflux condenser is fitted to the flask, and the solution is degassed by three successive cycles of vacuum pumping/N2 purging. The solution is then heated to reflux overnight. After cooling to room temperature, the solution is poured into 4 volumes of water, and 4 volumes of ethyl acetate are added. The resulting mixture is vigorously stirred for 30 minutes, then filtered through celite (with ethyl acetate washing) to remove solid Zn- and Pd-containing material. The phases are separated, and the aqueous phase is extracted with more ethyl acetate. The organic phases are washed in sequence with saturated brine, combined, dried over anhydrous sodium sulfate, filtered and evaporated. A solid precipitate forms at this point, which is sufficiently pure product and is collected by trituration with ether and filtration. The remaining material is purified by column chromatography (eluting 1:2 ethyl acetate-hexane on silica gel 60). Total yield of the product, 2-(4-amino-phenyl)-6-methoxy-1-propyl-1H-indole-3-carbonitrile, is 2.75 g (8.99 mmol, 70%).

reactant | Diisopropylamine | 14.3 mmol, 2.00 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyllithium | 13.6 mmol, 1.6 M, 8.50 mL | C(CCC)[Li]
reactant | 6-methoxy-1-propyl-1H-indole-3-carbonitrile | COC1=CC=C2C(=CN(C2=C1)CCC)C#N | C13H14N2O
reactant | 4-iodoaniline | 15.8 mmol, 3.47 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | triphenylphosphine | 1.29 mmol, 338 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | ZnCl2 | 13.5 mmol, 0.5 M, 27.0 mL | [Cl-].[Cl-].[Zn+2]
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
catalyst | Pd2(dba)3 | 0.322 mmol, 295 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(4-aminophenyl)-6-methoxy-1-propyl-1H-indole-3-carbonitrile | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CCC | C19H19N3O
